US05693667
2-Phenylbenzoic acid was converted to the acid chloride by the procedure of example b. The acid chloride was reacted with 70% aq ethylamine using General Method E1 to afford 10.59 g of N-ethyl-2-phenylbenzamide in 94% yield. m.p. 77°-79° C.

reactant | 2-Phenylbenzoic acid | C1(=CC=CC=C1)C1=C(C(=O)O)C=CC=C1 | C13H10O2
reactant | ethylamine | C(C)N | C2H7N
product | N-ethyl-2-phenylbenzamide | 10.59 g, 94% yield | C(C)NC(C1=C(C=CC=C1)C1=CC=CC=C1)=O | C15H15NO
